### PR TITLE
feat: add BitVec.[toNat|toInt|toFin|getLsbD|getMsbD|getElem|msb]_fill

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR implements `BitVec.*_fill`.

We also add `toInt_allOnes` and `toFin_allOnes` as the former is needed here. This completes the allOnes API.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2215,6 +2224,54 @@ theorem not_neg (x : BitVec w) : ~~~(-x) = x + -1#w := by
...
+  by_cases h : v
+  <;> simp [h, BitVec.fill, BitVec.negOne_eq_allOnes]
+
+@[simp]
+theorem msb_fill {w : Nat} {v : Bool} :
+    (fill w v).msb = (v && decide (0 < w)) := by
+  simp [BitVec.msb]
+
+theorem fill_eq {w : Nat} {v : Bool} : fill w v = if v = true then allOnes w else 0#w := by
+  by_cases h : v <;> (simp only [h] ; ext ; simp)
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2253]: Can we have two simp lemmas `fill_true` and `fill_false`?

**Comment by kim-em** [comment]
An alternative approch here might be to deprecate/delete `fill`. Do you know why we have it in the first place?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:2253]: Done.

**Comment by tobiasgrosser** [comment]
> An alternative approch here might be to deprecate/delete `fill`. Do you know why we have it in the first place?

It was added in 75272cb157f212976626f26d53270c6601d2d835 without further comments. Given that its a convenient helper and its easy to complete the API, I would be happy to keep it.

**Comment by tobiasgrosser** [comment]
awaiting-review
